US05246927
To a stirred solution of 90 g of 2-tert-butyl-6-isothiocyanato-5-(4-methylpiperidin-1-yl)benzothiazole in 900 ml of methylene chloride is added dropwise 26 g of N-methylpiperazine. The solution is stirred for 1 hour, washed with water, dried over anhydrous sodium sulphate and evaporated to give 110 g of 2-tert-butyl-6-[(4-methylpiperazin-1-yl)thiocarbonylamino]-5-(4-methylpiperidin-1-yl)benzothiazole, melting at 192°-195° C.

reactant | 2-tert-butyl-6-isothiocyanato-5-(4-methylpiperidin-1-yl)benzothiazole | 90 g | C(C)(C)(C)C=1SC2=C(N1)C=C(C(=C2)N=C=S)N2CCC(CC2)C | C18H23N3S2
reactant | N-methylpiperazine | 26 g | CN1CCNCC1 | C5H12N2
solvent | methylene chloride | 900 ml | C(Cl)Cl | CH2Cl2
product | 2-tert-butyl-6-[(4-methylpiperazin-1-yl)thiocarbonylamino]-5-(4-methylpiperidin-1-yl)benzothiazole | 110 g | C(C)(C)(C)C=1SC2=C(N1)C=C(C(=C2)NC(=S)N2CCN(CC2)C)N2CCC(CC2)C | C23H35N5S2
